US05807862
A solution of 1-(9-octadecenyl)-3,7-dimethylxanthine (0.15 g, 0.35 mmol), 4-methylmorpholine-N-oxide (49 mg, 0.42 mmol, 1.2 equivalents.) and potassium osmate dihydrate (1 mg) in acetone (4 ml) and water (1 ml) was stirred for 6 hours. A solution of 20% aqueous sodium sulphite (2 ml) was added and stirred for 30 minutes. The reaction mixture was extracted with four 10 ml aliquots of 25% ethanol/dichloromethane. The combined organic extracts were dried over anhydrous magnesium sulfate, the solvent evaporated under reduced pressure and a residue purified by flash chromatography over silica gel using a methanol(5%)/dichloromethane eluant, yielding 0.65 g of 1-(9,10-dihydroxyoctadecyl)-3,7-dimethylxanthine (40.4% yield).

reactant | 1-(9-octadecenyl)-3,7-dimethylxanthine | 0.35 mmol, 0.15 g | C(CCCCCCCC=CCCCCCCCC)N1C(=O)N(C=2N=CN(C2C1=O)C)C | C25H42N4O2
reactant | 4-methylmorpholine-N-oxide | 0.42 mmol, 49 mg, 1.2 equivalents | C[N+]1(CCOCC1)[O-] | C5H11NO2
reactant | sodium sulphite | 2 ml | S(=O)([O-])[O-].[Na+].[Na+]
reactant | water | 1 ml | O | H2O
solvent | acetone | 4 ml | CC(=O)C | C3H6O
product | 1-(9,10-dihydroxyoctadecyl)-3,7-dimethylxanthine | 0.65 g, 40.4% yield | OC(CCCCCCCCN1C(=O)N(C=2N=CN(C2C1=O)C)C)C(CCCCCCCC)O | C25H44N4O4
